US08426420B2
i) (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester
To a solution of 1.1 g 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 20 ml DMF were added 1 ml DIPEA, 0.41 g HOBt, 0.51 g EDC and 0.68 g H-Glu(OtBu)-OMe hydrochloride. After stirring for 24 h the solution was concentrated, taken up with dichloromethane and subsequently extracted with aqueous LiCl (4%), 0.1 M HCl and saturated NaHCO3. The crude product was purified by flash chromatography on silica using an ethyl acetate/heptane 50:50 to 100:0 gradient.

reactant | 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 1.1 g | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | DIPEA | 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.41 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Glu(OtBu)-OMe hydrochloride | 0.68 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC.Cl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EDC | 0.51 g
product | (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C31H41N5O8
